US06455521B1
Thieno[2,3-b][1,5]benzoxazepin-4(5H)-one (1.5 g) was suspended in 1,2-dichloroethane (20 ml) and butyryl chloride (880 mg) was added. To this reaction system was added portionwise aluminium chloride (4.6 g) under ice-cooling. The mixture was stirred at room temperature for 45 minutes. Insoluble matter was filtrated and the filtrate was poured into ice water, and chloroform was added. The organic layer was washed with water and dried over sodium sulfate. The solvent was evaporated under reduced pressure and water-ethanol was added. The precipitated crystals were collected by filtration. The obtained crystals were washed with chloroform-diisopropyl ether to give 2-butyrylthieno[2,3-b][1,5]benzoxazepin-4(5H)-one (1.2 g).

reactant | Thieno[2,3-b][1,5]benzoxazepin-4(5H)-one | 1.5 g | S1C=CC2=C1OC1=C(NC2=O)C=CC=C1 | C11H7NO2S
reactant | butyryl chloride | 880 mg | C(CCC)(=O)Cl | C4H7ClO
reactant | aluminium chloride | 4.6 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | 1,2-dichloroethane | 20 ml | ClCCCl | C2H4Cl2
product | 2-butyrylthieno[2,3-b][1,5]benzoxazepin-4(5H)-one | 1.2 g | C(CCC)(=O)C1=CC2=C(OC3=C(NC2=O)C=CC=C3)S1 | C15H13NO3S
